US08304425B2
A mixture of 4-(5,6-dihydro-4H-pyrrolo[3,2,1-ij]quinolin-1-yl)-3-(1H-indol-3-yl)-1,5-dihydro-pyrrol-2-one (95 mg, 270 μmol), magnesium turnings (1.3 g, 54 mmol) and methanol (15 mL) was heated at 60° C. for 3 h. Water was added to the reaction mixture and the pH adjusted to 1 with concentrated HCl. The mixture was extracted into EtOAc and washed with saturated sodium carbonate solution. The organics were dried (MgSO4), filtered and evaporated to yield a tan solid, which was titurated in hot EtOAc, yielding 4-(5,6-dihydro-4H-pyrrolo[3,2,1-ij]quinolin-1-yl)-3-(1H-indol-3-yl)-pyrrolidin-2-one as a white solid (15 mg, 16%, cis/trans: 1/3.7 from 1H NMR). 1H NMR (400 MHz, CD3OD) trans-δ: 7.42 (d, J=7.2 Hz, 1H), 7.33 (d, J=8.0 Hz, 1H), 7.14 (d, J=8.0 Hz, 1H), 7.06 (m, 1H), 7.00 (s, 1H), 6.95 (s, 1H), 6.93 (m, 1H), 6.82 (m, 2H), 4.14-4.05 (m, 4H), 3.85 (m, 1H), 3.71 (m, 1H), 2.90 (t, J=6.0 Hz, 2H), 2.12 (m, 2H). LCMS: m/e 356.13 [M+H].

reactant | 4-(5,6-dihydro-4H-pyrrolo[3,2,1-ij]quinolin-1-yl)-3-(1H-indol-3-yl)-1,5-dihydro-pyrrol-2-one | 270 μmol, 95 mg | C1(=CN2CCCC3=CC=CC1=C23)C2=C(C(NC2)=O)C2=CNC3=CC=CC=C23 | C23H19N3O
reactant | magnesium | 54 mmol, 1.3 g | [Mg] | Mg
reactant | methanol | 15 mL | CO | CH4O
reactant | HCl | Cl | ClH
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | Water | O | H2O
product | 4-(5,6-dihydro-4H-pyrrolo[3,2,1-ij]quinolin-1-yl)-3-(1H-indol-3-yl)-pyrrolidin-2-one | C1(=CN2CCCC3=CC=CC1=C23)C2C(C(NC2)=O)C2=CNC3=CC=CC=C23 | C23H21N3O
